US07642264B2
4-Benzo[1,3]dioxol-5-yl-2-(3-bromo-phenyl)-6-methyl-pyridine
The title compound was prepared from trifluoro-methanesulfonic acid 4-benzo[1,3]dioxol-5-yl-6-methyl-pyridin-2-yl ester (example A.56) (1.1 g, 3.04 mmol) and commercially available 3-bromobenzeneboronic acid (0.611 g, 3.04 mmol) according to the general procedure IVb. Obtained as a colorless gum (0.44 g, 39%). MS (ISP) 368.0 [(M+H)+] and 370.0 [(M+2+H)+].

reactant | trifluoro-methanesulfonic acid 4-benzo[1,3]dioxol-5-yl-6-methyl-pyridin-2-yl ester | 3.04 mmol, 1.1 g | O1COC2=C1C=CC(=C2)C2=CC(=NC(=C2)C)OS(=O)(=O)C(F)(F)F | C14H10F3NO5S
reactant | 3-bromobenzeneboronic acid | 3.04 mmol, 0.611 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 4-Benzo[1,3]dioxol-5-yl-2-(3-bromo-phenyl)-6-methyl-pyridine | O1COC2=C1C=CC(=C2)C2=CC(=NC(=C2)C)C2=CC(=CC=C2)Br | C19H14BrNO2
